US04775671
3.31 g (10 mmol) of (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxamidoxime in 10 ml of trifluoroacetic anhydride are stirred at room temperature for 1.5 hours and the reaction mixture is evaporated. By chromatography of the residue on silica gel while eluting with chloroform which contains 5% methanol and subsequent recrystallization from ethyl acetate/hexane there is obtained (S)-8-chloro-11,12,13,13a-tetrahydro-1-[5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl]-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one of melting point 220°-221°.

reactant | (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxamidoxime | 10 mmol, 3.31 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(N)=NO)CCC1)=O | C15H14ClN5O2
reactant | trifluoroacetic anhydride | 10 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | (S)-8-chloro-11,12,13,13a-tetrahydro-1-[5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl]-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C3=NOC(=N3)C(F)(F)F)CCC1)=O | C17H11ClF3N5O2
